US04325956
a. Preparation of 6-amino-1-butyl-2,4-(1H,3H)-pyrimidinedione (VIII)
To a solution of 46 g (0.55 mol) cyanoacetic acid and 100 ml of acetic anhydride was added 58 g (0.5 mol) of n-butylurea. The solution was stirred at 70° C. for 2 hours. After cooling white crystals were filtered off and washed with ethanol. Yield 68 g (74% (VII). This was stirred in 500 ml of water and 20 ml of 5 N NaOH was added in portions so the solution the whole time was basic. The reaction mixture was refluxed for 20 minutes and then neutralized with 5 N HCl. After cooling, white crystals were filtered off. Yield 50.6 g (75%) (VIII), NMR.

reactant | cyanoacetic acid | 0.55 mol, 46 g | C(#N)CC(=O)O | C3H3NO2
reactant | n-butylurea | 0.5 mol, 58 g | C(CCC)NC(=O)N | C5H12N2O
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-amino-1-butyl-2,4-(1H,3H)-pyrimidinedione | NC1=CC(NC(N1CCCC)=O)=O | C8H13N3O2
